Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7].[H:8],3.9567604714
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.5311941902200004
[O:1]=[C:2][C:3]([H:4])=[C:5]=[O:6]>>[C:3]([H:4])#[C:5][O:6].[O:1]=[C:2],1.35449577684
[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5626442299
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5]=[O:6],2.97140483777
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],5.66075836082
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-2.97512310152
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.28363846746
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[H:11].[H:1][C:2]([H:3])=[C:4]=[C:8]([H:9])[H:10],1.30882751734
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13].[H:9],4.85215296389
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.590425997930001
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],1.1567253999999998
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1],3.71159657809
[C:1]#[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:4]([H:5])=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],2.87604548541
[H:1][O:2][C:3][C:10]([C:9]#[C:4][C:5]([H:6])([H:7])[H:8])([H:11])[H:12]>>[H:1][O:2][C@@:3]12[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1[C:10]2([H:11])[H:12],-0.762241761409
[C:6][H:7].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],-9.510436073580001
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],1.86436198963
[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.1362022115400014
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.7678910359
[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([O:3][O:4])[C:6]([H:7])([H:8])[H:9].[H:5],3.75854630079
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.98600167186
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],1.6269621680000002
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-1.49224787258
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[O:8].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9],-4.62696039371
[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([C:4]([C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[H:13])[C:14]([H:15])([H:16])[H:17])[H:5],-0.0762257958295
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9],4.31727019561
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13][H:14],3.9399576225
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],1.99028567105
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.86696082701
[O:1][C:2]#[C:3][H:4].[O:5][H:6]>>[O:1]=[C:2]([C:3][H:4])[O:5][H:6],-3.5465339715
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],4.85855263356
